US05649045
0.75-6FDA/0.25 BPDA/TFMB
A solution of polyamic acid was prepared at room temperature by combining 6.893 grams of 6FDA, 1.518 grams of BPDA, 6.608 grams of TFMB and 61.1 grams of NMP with good mixing. The amic acid solution was diluted to 10.9% solids, then cast on a silicon wafer by spin coating, and imidized by a heat treatment up to a maximum temperature of 300° C. to produce a coating having a thickness of 2.1 microns. The refractive index was determined in the same manner as in Example 1 and is reported in Table I.

reactant | BPDA | 1.518 grams | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O6
reactant | TFMB | 6.608 grams | C1=CC(=C(C=C1N)C(F)(F)F)C2=C(C=C(C=C2)N)C(F)(F)F | C14H10F6N2
solvent | NMP | 61.1 grams | CN1CCCC1=O | C5H9NO
product | BPDA TFMB | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O.C1=CC(=C(C=C1N)C(F)(F)F)C2=C(C=C(C=C2)N)C(F)(F)F | InChI=1S/C16H6O6.C14H10F6N2/c17-13-9-3-1-7(5-11(9)15(19)21-13)8-2-4-10-12(6-8)16(20)22-14(10)18;15-13(16,17)11-5-7(21)1-3-9(11)10-4-2-8(22)6-12(10)14(18,19)20/h1-6H;1-6H,21-22H2
